US07652049B2
In a tube were placed 2-bromo-6-isopropenylpyridine (17.5 mg, 0.0878 mmol), (4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-4-methyl-3-[2-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-5-(trifluoromethyl)benzyl]-1,3-oxazolidin-2-one (26.2 mg, 0.0439 mmol), DME (190 μL), EtOH (62 μL), and 1M aqueous Na2CO3 (100 μL, 0.1 mmol). The mixture was degassed with N2. Next, Pd(PPh3)4 (9 mg, 7.8×10−3 mmol) was added and the mixture was degassed again with N2. The tube was sealed and heated at 100° C. for 2 hours. The reaction was then cooled to room temperature, diluted with EtOAc (50 mL), and washed with water and brine (15 mL each). The organic layer was dried over Na2SO4, filtered, and concentrated. Purification of the residue by flash chromatography on silica gel (5 to 25% EtOAc/hexanes) afforded (4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-3-[2-(6-isopropenylpyridin-2-yl)-5-(trifluoromethyl)benzyl]-4-methyl-1,3-oxazolidin-2-one. Rf=0.15 (15% EtOAc/hexanes). LCMS=589.1 (M+1)+. 1H NMR (CDCl3, 500 MHz) δ 7.81-7.85 (m, 2H), 7.74 (s, 1H), 7.69-7.69 (m, 3H), 7.58 (d, J=8.0 Hz, 1H), 7.53 (d, J=7.7 Hz, 1H), 7.34 (d, J=7.6 Hz, 1H), 5.94 (s, 1H), 5.48 (d, J=7.7 Hz, 1H), 5.36 (s, 1H), 5.06 (d, J=16.0 Hz, 1H), 4.47 (d, J=16.1 Hz, 1H), 3.91 (m, 1H), 2.23 (s, 3H), 0.50 (d, J=6.6 Hz, 3H).

reactant | 2-bromo-6-isopropenylpyridine | 0.0878 mmol, 17.5 mg | BrC1=NC(=CC=C1)C(=C)C | C8H8BrN
reactant | (4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-4-methyl-3-[2-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-5-(trifluoromethyl)benzyl]-1,3-oxazolidin-2-one | 0.0439 mmol, 26.2 mg | FC(C=1C=C(C=C(C1)C(F)(F)F)[C@@H]1[C@@H](N(C(O1)=O)CC1=C(C=CC(=C1)C(F)(F)F)B1OC(C(O1)(C)C)(C)C)C)(F)F | C26H25BF9NO4
reactant | DME | 190 μL | COCCOC | C4H10O2
reactant | Na2CO3 | 0.1 mmol, 1M, 100 μL | C(=O)([O-])[O-].[Na+].[Na+]
catalyst | Pd(PPh3)4 | 7.8×10−3 mmol, 9 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | EtOH | 62 μL | CCO | C2H6O
product | (4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-3-[2-(6-isopropenylpyridin-2-yl)-5-(trifluoromethyl)benzyl]-4-methyl-1,3-oxazolidin-2-one | FC(C=1C=C(C=C(C1)C(F)(F)F)[C@@H]1[C@@H](N(C(O1)=O)CC1=C(C=CC(=C1)C(F)(F)F)C1=NC(=CC=C1)C(=C)C)C)(F)F | C28H21F9N2O2
